US08334287B2
5-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-2-ethyl-2H-pyridazin-3-one
The title compound, light yellow crystalline solid, MS: m/e=339.1, 340.6 (M+H+), was prepared in accordance with the general method of example 35 from 2-ethyl-5-(4-iodo-2-methyl-imidazol-1-yl)-2H-pyridazin-3-one and 2-chloro-4-trimethylsilanylethynyl-pyridine.

reactant | 2-ethyl-5-(4-iodo-2-methyl-imidazol-1-yl)-2H-pyridazin-3-one | C(C)N1N=CC(=CC1=O)N1C(=NC(=C1)I)C | C10H11IN4O
reactant | 2-chloro-4-trimethylsilanylethynyl-pyridine | ClC1=NC=CC(=C1)C#C[Si](C)(C)C | C10H12ClNSi
product | 5-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-2-ethyl-2H-pyridazin-3-one | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=CC(N(N=C1)CC)=O)C | C17H14ClN5O
